US06515003B1
A mixture of 3-bromo-4-methoxybenzaldehyde (19.0 g, 88.4 mmol), (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid (23.8 g, 97.2 mmol) and potassium carbonate (48.8 g, 353.6 mmol) in 1,2-dimethoxyethane (500 mL) and water (40 mL) was degassed with argon for 60 minutes. Tetrakis(triphenylphosphine)palladium(0) (5.0 g, 4.3 mmol) was added and the mixture heated at reflux under argon for 16 hours. The solution was cooled to room temperature, diluted with ethyl acetate (200 mL) and washed successively with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (eluent: ethyl acetate/hexane, 1:9) to give 26.8 g of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4-methoxy-benzaldehyde (90%). 1H NMR (500 MHz; CDCl3): δ1.26 (s, 6H); 1.32 (s, 6H); 1.70 (s, 4H); 2.08 (s, 3H); 3.89 (s, 3H); 7.06 (d, J=8.5 Hz, 1H); 7.09 (s, 1H); 7.16 (s, 1H); 7.71 (d, J=2.0 Hz, 1H); 7.88 (dd, J1=2.0 Hz, J2=8.5H (s, 1H).

reactant | 3-bromo-4-methoxybenzaldehyde | 88.4 mmol, 19.0 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid | 97.2 mmol, 23.8 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | potassium carbonate | 353.6 mmol, 48.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 500 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 4.3 mmol, 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4-methoxy-benzaldehyde | 26.8 g, 90% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=O)C=CC1OC | C23H28O2
